US06855716B2
Synthesis of 6-(2-azidoethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide
180 mg (0.389 mmol) of 6-(2-chloroethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide was dissolved in 10 ml of DMF. 38.0 mg (0.584 mmol) of sodium azide and 58.3 mg (0.389 mmol) of sodium iodide were added to the obtained solution, and they were stirred at 60° C. for 2 days. After the concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate and then washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane/methanol=100/1) to obtain the title compound.

reactant | 6-(2-chloroethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide | 0.389 mmol, 180 mg | C1(=CC=CC=C1)CCCNC(=O)C=1C(NC(NC1COCCCl)=O)C1=CC(=CC=C1)Cl | C23H25Cl2N3O3
reactant | sodium azide | 0.584 mmol, 38.0 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium iodide | 0.389 mmol, 58.3 mg | [I-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-(2-azidoethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide | C1(=CC=CC=C1)CCCNC(=O)C=1C(NC(NC1COCCN=[N+]=[N-])=O)C1=CC(=CC=C1)Cl | C23H25ClN6O3
